US07094908B2
Methyl 2-(4-methyl-1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-3-oxo-butyrate was prepared (117 mg, 31%) in the same manner as described in the above example 6 (1) from methyl 3-(4-methyl-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate (0.37 g, 1.31 mmol) and p-toluenesulfonic acid monohydrate (51 mg), and the obtained product was identified with the following NMR data.

reactant | methyl 3-(4-methyl-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | 1.31 mmol, 0.37 g | CC1=C2C(N(C(C2=CC=C1)=O)CC(C(=O)OC)C1(OCCO1)C)=O | C17H19NO6
reactant | p-toluenesulfonic acid monohydrate | 51 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | Methyl 2-(4-methyl-1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-3-oxo-butyrate | CC1=C2C(N(C(C2=CC=C1)=O)CC(C(=O)OC)C(C)=O)=O | C15H15NO5
